US04372972
A mixture of 3.64 g (0.025 mole) of N-(2-propynyl)-2,6-dimethylbenzenamine and 2.52 g (0.025 mole) of triethylamine in 25 ml of dichloromethane is stirred rapidly under nitrogen at room temperature as 3.06 g (0.025 mole) of 2-furoyl chloride, dissolved in 5 ml of dichloromethane, is added at a moderate rate. Upon addition of the 2-furoyl chloride a vigorous exotherm is noted, causing the solvent to reflux for 2 min. The mixture is stirred for 30 min. and then poured into 200 ml of dichloromethane and washed with water (100 ml), 5% HCl (100 ml), water (100 ml) and brine (100 ml). The organic layer is dried over anhydrous sodium sulfate, filtered and the solvent removed under reduced pressure to yield a solid. The solid is washed with n-hexane and vacuum dried to yield 3.65 g (0.0144 mole) of N-(2-furoyl)-N-(2-propynyl)-2,6-dimethylbenzenamine.

reactant | N-(2-propynyl)-2,6-dimethylbenzenamine | 0.025 mole, 3.64 g | C(C#C)NC1=C(C=CC=C1C)C | C11H13N
reactant | triethylamine | 0.025 mole, 2.52 g | C(C)N(CC)CC | C6H15N
reactant | 2-furoyl chloride | 0.025 mole, 3.06 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-(2-furoyl)-N-(2-propynyl)-2,6-dimethylbenzenamine | 0.0144 mole, 3.65 g | O1C(=CC=C1)C(=O)N(C1=C(C=CC=C1C)C)CC#C | C16H15NO2
